US08048909B2
1-{1-[(4-Isopropoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine 0.5 oxalic acid salt
Using tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (70 mg), sodium hydride (60% in oil, 98 mg) and 4-isopropoxybenzenesulfonyl chloride (201 mg), a procedure as in Example 38 was performed to give the title compound as pale-red crystals (yield 47 mg, 45%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 70 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 98 mg | [H-].[Na+]
reactant | 4-isopropoxybenzenesulfonyl chloride | 201 mg | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO3S
product | 1-{1-[(4-Isopropoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine | yield 47 mg, 45% | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | C21H24N2O3S
